Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Drug Allergy Information on File
 
Attending: ___.
 
Chief Complaint:
Severe back pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization
 
History of Present Illness:
Ms. ___ is an ___ woman with h/o  diabetes, 
osteoarthritis, polymyalgia rheumatica who p/w NSTEMI. Pt has 
long history of low back pain due to her OA and this most recent 
episode began on ___. Pain was exacerbated by movement, 
radiating to hips/legs and so severe that pt could not get out 
of bed in AM of ___. Pt self-medicated with ~14 percocet 
tablets in ~12 hours. At baseline, pt uses a walker and has 
chronic pain ___ arthritis

Pt was taken to ___ where CXR was suggestive of PNA 
vs. CHF, EKG w/ ST changes. Pt was given ceftriaxone and 
azithromycin IV for presumed PNA and fentanyl/oxycodone for 
pain. Pt also had 15 minutes of substernal chest pain that was 
resolved w/ oxygen. Pt was given morphine, dopamine, Plavix 
600mg ___ 325mg, heparin bolus 4000 units and transferred to 
___ for PCI and further evaluation. Vital signs at 
___: T98.8 HR100 BP121/76 RR14 O2sat 100% RA

Upon arrival at ___, pt was taken to cath lab for PCI and 
found to have distal left main disease (90%), moderate diffuse 
LAD disease, LCX occlusion (90% origin), RCA occlusion (100% 
proximal w/ left to right collaterals), LVEF 20% and severe 
mitral regurg (4+). During the procedure, pt developed AFib and 
BP dropped to 77/56, then 83/58. Pt was given 450 cc fluid bolus 
and started on dopamine (5 mcg --> 10 mcg) and amiodarone gtts. 
Pt was deemed not a candidate for cardiac surgery and high risk 
for stenting, transferred to CCU for close monitoring and 
medical management. 

Upon arrival to the CCU, pt was continued on dopamine 10mcg --> 
5 mcg and amiodarone. Femoral swan and arterial lines were 
maintained; pt was comfortable and had no complaints. Per the 
family, the pt had a three pound weight gain over the past week 
and increasing peripheral edema. She denied PND or orthopnea.

On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, cough, hemoptysis, black stools or red stools. 
All of the other review of systems were negative. Of note, pt 
did not report fever/chills/productive cough.
 
Cardiac review of systems is notable for absence of dyspnea on 
exertion, palpitations, syncope or presyncope. Pt is relatively 
inactive at baseline.
 
Past Medical History:
Dyslipidemia
Diabetes (diet-controlled)
Hyperlipidemia
Hypertension
Arthritis
Lumbar stenosis
Scoliosis 
Polymyalgia rheumatica
 
Social History:
___
Family History:
Father died of gastric cancer, children alive and well.  No 
family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION EXAM
VS: T=97.2 BP=95/59 HR=78 RR=21 O2 sat=99% on 15L nonrebreather  

GENERAL: Pleasant, pale elderly woman in NAD. Oriented x3. Mood, 
affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, mild pallor or cyanosis of the oral mucosa. No 
xanthalesma.  
NECK: Supple with visible JVD elevated to jawline.   
CARDIAC: PMI located in ___ intercostal space, laterally 
displaced from midclavicular line. RR, normal S1, S2. No S3 or 
S4. No gallops or rubs. Grade ___ holosystolic murmur in left 
lower sternal border. LUNGS: No chest wall deformities, 
scoliosis or kyphosis. Resp were unlabored, no accessory muscle 
use. Fine bibasilar crackles. No wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c; 2+ pitting edema bilaterally. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Right and left ___ + 
 
Pertinent Results:
___ 08:50PM BLOOD CK-MB-72* MB Indx-19.1* cTropnT-0.71*
___ 06:00AM BLOOD CK-MB-193* MB Indx-16.4* cTropnT-2.92*

___ 06:00AM BLOOD ALT-207* AST-498* LD(LDH)-702* 
CK(CPK)-1180* AlkPhos-355* TotBili-1.6*

___ 06:00AM BLOOD WBC-6.6# RBC-2.83* Hgb-8.7* Hct-27.1* 
MCV-96 MCH-30.8 MCHC-32.2 RDW-14.2 Plt ___

___ 06:16AM BLOOD Lactate-4.8*

 
Brief Hospital Course:
Ms. ___ was initially seen at an outside hospital before 
being transferred to ___ for cardiac catheterization following 
an episode of chest pain and EKG with diffuse ST changes 
concerning for left pain disease. Upon arrival to ___, she 
underwent emergent PCI and was found to have severe three vessel 
disease (RCA, left main, left circumflex occlusions). Cardiac 
enzymes on arrival were elevated (CK 376  MB72  MBI 19.1  Tr 
0.71). TTE demonstrated LVEF 25%. The hemodynamic readings (high 
RA, increased PCWP, decreased CO, increased SVR) consistent with 
cardiogenic shock. After much consideration it was determined 
she was not a surgical candidate and her disease was not 
amendable to stenting.  After arriving in the CCU, discussion 
were held with the patient and her family and it was decided to 
not pursue aggressive medical care.  Rather, the decision was 
made to pursue comfort as the primary goal.  Given this 
decision, life prolonging medications were stopped.  Ms. 
___ died peacefully with her family at her bedside at 7pm 
on ___. Autopsy was declined.
 
Medications on Admission:
Valsartan 80 mg ___ BID
Metoprolol 12.5 mg BID
Prilosec 30 mg ___ qday
Ferrous Gluconate 324 mg ___ BID
Simvastatin 5 mg qhs
Caltrate 600+D 1 tablet BID
___ 81 mg daily
Lasix 40 mg ___ qam
Lasix 20 mg ___ qpm
Centrum Silver MVI 1 tablet daily
Senna daily prn
Oxycodone ___ mg q4-6h prn for pain
 
Discharge Medications:
Expired.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Primary: Acute myocardial infarction, coronary artery disease, 
cardiogenic shock
Secondary: Hypertension, hyperlipidemia, diabetes mellitus, 
polymyalgia rheumatica
 
Discharge Condition:
Expired.
 
Discharge Instructions:
Expired.
 
Followup Instructions:
___